US07855290B2
N-[4-({2-[({4-[(Dimethylamino)methyl]piperidin-1-yl}carbonyl)amino]pyridin-4-yl}oxy)-3-fluorophenyl]-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide
4-(Dimethylaminomethyl)piperidine-1-carboxylic acid [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]amide (88 mg) was dissolved in N,N-dimethylformamide (2.5 ml). 1-(4-Fluorophenylcarbamoyl)cyclopropanecarboxylic acid (101 mg), triethylamine (0.0633 ml) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (201 mg) were added under a nitrogen atmosphere at room temperature, followed by stirring overnight. Liquid-liquid separation was carried out after addition of ethyl acetate and water to the reaction mixture. The organic layer was washed with a 1N aqueous solution of sodium hydroxide and brine, and dried over anhydrous sodium sulfate. The solvent was removed and the resultant residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=98:2). Fractions containing the target compound were concentrated under reduced pressure. A solid was precipitated by addition of heptane to the resultant residue. The solid was collected by filtration, and dried under aeration to provide the titled compound as white powder (39.8 mg, 30%).

reactant | 4-(Dimethylaminomethyl)piperidine-1-carboxylic acid [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]amide | 88 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)CN(C)C)C=C1)F | C20H26FN5O2
reactant | 1-(4-Fluorophenylcarbamoyl)cyclopropanecarboxylic acid | 101 mg | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)O | C11H10FNO3
reactant | triethylamine | 0.0633 ml | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 201 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | N-[4-({2-[({4-[(Dimethylamino)methyl]piperidin-1-yl}carbonyl)amino]pyridin-4-yl}oxy)-3-fluorophenyl]-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 39.8 mg, 30% | CN(C)CC1CCN(CC1)C(=O)NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F)F | C31H34F2N6O4
